US05605910
A. 1-Methoxy-4-azatricyclo[5.2.2.02,6 ]undec-8-en-3,5-dione
11 g (0.1 mol) of 1-methoxycyclohexa-1,4-diene are heated under reflux with 0.1 g of tris(triphenylphosphine)-ruthenium dichloride and 8.8 g (0.09 mol) of maleimide in 100 ml of absolute chloroform overnight. The mixture is concentrated and the residue is recrystallized from 100 ml of toluene.

reactant | 1-methoxycyclohexa-1,4-diene | 0.1 mol, 11 g | COC1=CCC=CC1 | C7H10O
reactant | maleimide | 0.09 mol, 8.8 g | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Methoxy-4-azatricyclo[5.2.2.02,6 ]undec-8-en-3,5-dione | COC12C3C(NC(C3C(C=C1)CC2)=O)=O | C11H13NO3
